US08039490B2
1-[4-(2,5-Dichloro-benzoyl)-piperidin-1-yl]-ethanone
The title compound was prepared according as described on example 65A18 from 2,5 Dichloro 1-iodobenzol, isopropyl magnesium chloride-lithium chloride (2M in THF) and 1-acetyl-isonipecotoyl chloride. (m/e): 301.1 (M+H+).

reactant | 2,5 Dichloro 1-iodobenzol | ClC1=C(C=C(C=C1)Cl)I | C6H3Cl2I
reactant | isopropyl magnesium chloride lithium chloride | 2M | C(C)(C)[Mg]Cl.[Cl-].[Li+]
reactant | 1-acetyl-isonipecotoyl chloride | C(C)(=O)N1CCC(C(=O)Cl)CC1 | C8H12ClNO2
product | 1-[4-(2,5-Dichloro-benzoyl)-piperidin-1-yl]-ethanone | ClC1=C(C(=O)C2CCN(CC2)C(C)=O)C=C(C=C1)Cl | C14H15Cl2NO2
